US07507739B2
To a solution of diethyl 2-(2,6-difluoro-4-hydroxyphenyl)malonate (288 mg, 1.0 mmol) and triethylamine (505 mg, 5.0 mmol) in 5 mL of methylene chloride at room temperature is added trifluoromethanesulfonic anhydride (1.41 g, 5.0 mmol). The mixture is stirred at room temperature for 10 minutes. A 5% aqueous solution of sodium bicarbonate is added slowly to quench the reaction. The product is extracted with ethyl acetate. The combined organic extracts are washed with saturated sodium chloride, dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of hexanes to 15% ethyl acetate in hexanes. Concentration provides diethyl 2-(2,6-difluoro-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)malonate as a colorless oil (361 mg). MS: m/z 419.2 (M−H).

reactant | diethyl 2-(2,6-difluoro-4-hydroxyphenyl)malonate | 1.0 mmol, 288 mg | FC1=C(C(=CC(=C1)O)F)C(C(=O)OCC)C(=O)OCC | C13H14F2O5
reactant | triethylamine | 5.0 mmol, 505 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 5.0 mmol, 1.41 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | diethyl 2-(2,6-difluoro-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)malonate | 361 mg | FC1=C(C(=CC(=C1)OS(=O)(=O)C(F)(F)F)F)C(C(=O)OCC)C(=O)OCC | C14H13F5O7S
